US03979444
To a well stirred suspension of 2.74 g. (0.072 mole) of lithium aluminum hydride in 170 ml. of tetrahydrofuran, a solution of 34.8 g. (0.143 mole) of 4-cyano-4-phenylcyclohexanone, ethylene ketal in 1700 ml. of tetrahydrofuran is added in a period of about 20 minutes. The mixture is stirred at room temperature for about 1.75 hours, then cooled in an icebath and treated successively with 2.8 ml. of water, 2.8 ml. of 15% sodium hydroxide solution and 8.2 ml. of water. The resulting inorganic gel is collected on a filter and rinsed with ether. The combined filtrates are then evaporated to dryness. A solution of the residue in 525 ml. of tetrahydrofuran and 52.5 ml. of 2.5 N hydrochloric acid is stirred at room temperature for about 15 minutes, treated with 17 g. of sodium bicarbonate solution and then evaporated to dryness. Ether is added to the residue and the organic layer evaporated to dryness to yield 34.07 g. (96.7% yield) of crude 4-formyl-4-phenylcyclohexanone, ethylene ketal, having a melting point of 51° to 66°C. Its infrared (IR) and NMR confirm its expected structure.

reactant | lithium aluminum hydride | 0.072 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-cyano-4-phenylcyclohexanone | 0.143 mole | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-formyl-4-phenylcyclohexanone | 96.7% yield | C(=O)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H14O2
